US06455548B2
1-(2,4-Dichlorobenzyl)-3-(R)-formyl-4-(S)-(3-thienyl)pyrrolidine
To a solution of 2.4 g (13.1 mmol) of 3-(R)-hydroxymethyl-4-(S)-(3-thienyl)pyrrolidine, 6.8 mL (39 mmol) of diisopropylethylamine, and 4.1 g (23.4 mmol) of 2,4-dichlorobenzaldehyde (Aldrich) in 60 mL of CH2Cl2 at rt was added 5.5 g (26 mmol) of sodium triacetoxyborohydride in several small portions and the reaction mixture was stirred at rt for 3 h. To the reaction was added 50 mL of sat'd NaHCO3 solution and the mixture was extracted with CH2Cl2. The combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:acetone, 4:1) to give the title compound. Mass Spectrum (ESI) m/e=342 (M+1 35Cl, 35Cl), 344 (M+1 35Cl, 37Cl), and 346 (M+1 37Cl, 37Cl). 1H-NMR (CDCl3, 500 MHz): 7.38 (m, 2H), 7.30 (m, 1H), 7.23 (m, 1H), 7.03 (m, 2H), 3.65-3.77 (m, 3H), 3.34 (m, 1H), 3.21 (t, J=8.5 Hz, 1H), 2.82 (m, 2H), 2.70 (m, 1H), 2.52 (t, J=8 Hz, 1H), 2.38 (m, 1H). 13C-NMR (CDCl3, 125 MHz): 145.0, 134.7, 134.6, 133.3, 131.3, 129.3, 127.0, 126.9, 126.0, 119.8, 66.2, 61.7, 57.8, 56.1, 48.0, 41.7.). [α]D=+3.0 (c=1.75, CHCl3).

reactant | 3-(R)-hydroxymethyl-4-(S)-(3-thienyl)pyrrolidine | 13.1 mmol, 2.4 g | OC[C@H]1CNC[C@@H]1C1=CSC=C1 | C9H13NOS
reactant | diisopropylethylamine | 39 mmol, 6.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,4-dichlorobenzaldehyde | 23.4 mmol, 4.1 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | sodium triacetoxyborohydride | 26 mmol, 5.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,4-Dichlorobenzyl)-3-(R)-formyl-4-(S)-(3-thienyl)pyrrolidine | ClC1=C(CN2C[C@@H]([C@H](C2)C2=CSC=C2)C=O)C=CC(=C1)Cl | C16H15Cl2NOS
